US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-2-phenyl-1H-imidazol-5-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[{[4-chloro-1-(4-methoxybutyl)-2-phenyl-1H-imidazol-5-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (200 mg), palladium(II) hydroxide-carbon (20 mg) and potassium acetate (30 mg) were suspended in methanol (10 ml), and the mixture was stirred under a hydrogen atmosphere (1 atom) at room temperature for 1 day. The palladium catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was suspended in water, and the suspension was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-80:20) was concentrated under reduced pressure to give the object product (90 mg).

reactant | tert-Butyl (3S,5R)-3-[{[4-chloro-1-(4-methoxybutyl)-2-phenyl-1H-imidazol-5-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 200 mg | ClC=1N=C(N(C1C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C)CCCCOC)C1=CC=CC=C1 | C34H50ClN5O6
reactant | potassium acetate | 30 mg | C(C)(=O)[O-].[K+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium(II) hydroxide carbon | 20 mg | [OH-].[Pd+2].[OH-].[C]
product | Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-2-phenyl-1H-imidazol-5-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 90 mg | COCCCCN1C(=NC=C1C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C)C1=CC=CC=C1 | C34H51N5O6
